US08623869B2
Step 5: tert-Butyl N-[1-(3-formylphenyl)ethyl]carbamate
To a solution of tert-butyl N-[1-[3-(hydroxymethyl)phenyl]ethyl]carbamate (4.91 g, 19.54 mmol) in DCM (40 mL) was added MnO2 (13.59 g, 156.3 mmol) and the reaction mixture was stirred at ambient temperature for 48 hours. An additional portion of MnO2 (3 g 34.5 mmol) was added and the reaction mixture was stirred at ambient temperature for an additional 12 hours. The reaction mixture was filtered through a pad of Celite and the filtrate concentrated in vacuo to give the sub-title compound as a colourless oil (4.0 g, 82% Yield). 1H NMR (400 MHz, DMSO) δ 1.30-1.41 (m, 12H) 4.64-4.75 (m, 1H), 7.55 (dd, 2H), 7.64 (d, 1H), 7.78 (d, 1H), 7.83 (s, 1H) and 10.00 (s, 1H) ppm; MS (ES+) 250.5.

reactant | tert-butyl N-[1-[3-(hydroxymethyl)phenyl]ethyl]carbamate | 19.54 mmol, 4.91 g | OCC=1C=C(C=CC1)C(C)NC(OC(C)(C)C)=O | C14H21NO3
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 156.3 mmol, 13.59 g | O=[Mn]=O
catalyst | MnO2 | 34.5 mmol, 3 g | O=[Mn]=O
product | tert-Butyl N-[1-(3-formylphenyl)ethyl]carbamate | 4.0 g, 82% Yield | C(=O)C=1C=C(C=CC1)C(C)NC(OC(C)(C)C)=O | C14H19NO3
